US09403801B2
Step 10) 5-chloro-N4-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.5]decan-8-yl)pyrimidine-2,4-diamine (3.10 A)
To a suspension of tert-butyl 8-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decane-2-carboxylate (3.9 A: 0.15 g, 0.32 mmol) in DCM (10 mL) was added a solution of HCl in EtOAc (10 mL, 3.5 M). The mixture was stirred at room temperature for 2 h, then concentrated in vacuo. The residue was diluted with DCM (20 mL) and saturated Na2CO3 solution (20 mL). The organic layer was separated and the aqueous layer was extracted with a mixture of DCM and MeOH (10/1 (v/v), 20 mL×5). The combined organic layers was washed with brine (30 mL), dried over anhydrous Na2SO4, then filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/2N NH3 in MeOH (v/v)=5/1) to afford 3.10 A as a brown solid (0.10 g, 84%).

reactant | tert-butyl 8-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decane-2-carboxylate | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)N(C1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)C | C23H34ClN7O2
reactant | HCl | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 3.5 M, 10 mL | CCOC(=O)C | C4H8O2
product | 5-chloro-N4-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.5]decan-8-yl)pyrimidine-2,4-diamine | 0.10 g, 84% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)N(C1CCC2(CCNC2)CC1)C | C18H26ClN7
